US04670448
N-[[1-Methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazol-3-yl]methyl]-N'-phenyl urea
A mixture of 1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-methanamine (0.75 g) and phenyl isocyanate (0.25 ml) in dry acetonitrile was stirred at 30° for 3 h. The solvent was removed in vacuo and the solid residue was crystallized from methyl acetate and petroleum ether (b.p. 60°-80°) to give the title compound (0.94 g) as a white solid, m.p. 120°-1°. T.l.c. System A, Rf 0.6.

reactant | 1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazole-3-methanamine | 0.75 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CN | C19H30N6O
reactant | phenyl isocyanate | 0.25 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[[1-Methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazol-3-yl]methyl]-N'-phenyl urea | 0.94 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CNC(=O)NC1=CC=CC=C1 | C26H35N7O2
